US05055458
9-(1-Diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)adenine
A solution of 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)adenine (170 mg, 0.35 mmol) in 80% aqueous acetic acid (5 ml) was stirred at 85° C. for 5 hours. After evaporation, the residue was chromatographed on silica eluting with ethyl acetate-methanol 5:1 affording 9-(1-diethoxyphosphorylmethoxy3-hydroxyprop-2-oxy)adenine (120 mg, 92%) as a clear gum. νmax (film) 3340; 1700, 1600, 1330, 1290, 1240, 1030 and 970 cm-1 ; δH (CDCl3) 1.38(6H, t, J7.1 Hz, 2×CH2CH3), 3.70(2H, m, CH2OH), 3.89(4H, m, CH2OCH2P), 4.22(4H, m, 2×CH2CH3), 4.50(1H, m, CHON), 5.63(1H, m, D2O exchangeable, OH), 5.89(2H, br.s, D2O exchangeable, NH2), 8.18(1H, s, H-2/H-8), 8.34(1H, s, H-2/H-8); Found: C,39.58; H,5.69; N,17.69%; M+ 375.1317; C13H22N5O6P.0.9H2O requires C,39.87; H,6.08; N,17.89%; M+ 375.1308.

reactant | 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)adenine | 0.35 mmol, 170 mg | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)N | C19H36N5O6PSi
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 9-(1-Diethoxyphosphorylmethoxy-3-hydroxyprop-2-oxy)adenine | C(C)OP(=O)(OCC)COCC(CO)ON1C2=NC=NC(=C2N=C1)N | C13H22N5O6P
